US07723378B2
At −78° C. a solution of 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (5 g, 23.8 mmol) in THF is treated with tert.-butyllithium (41 mL, 1.5 M in pentane). The mixture is stirred at −78° C. for 15 min before methyliodide (17.1 g, 120 mmol) is added dropwise. Stirring is continued at −78° C. for 30 min. The mixture is warmed to rt, diluted with water (400 mL), acidified with 10% aq. citric acid solution and extracted three times with EA. The combined organic extracts are dried over MgSO4 and evaporated. The remaining solid is suspended in heptane/diethyl ether, filtered and dried under HV to give 3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (4.01 g) as a beige powder; LC-MS: tR=0.97 min, [M+1]=225.13; 1H NMR (D6-DMSO): δ 12.49 (s br, 1H), 2.87 (t, J=6.7 Hz, 2H), 2.26 (s, 5H), 1.45 (t, J=6.7 Hz, 2H), 0.91 (s, 6H).

reactant | 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 23.8 mmol, 5 g | CC1(CC=2C(=C(SC2)C(=O)O)CC1)C | C11H14O2S
reactant | tert.-butyllithium | 1.5 M, 41 mL | C(C)(C)(C)[Li]
reactant | methyliodide | 120 mmol, 17.1 g | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 400 mL | O | H2O
product | 3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 4.01 g | CC1=C2C(=C(S1)C(=O)O)CCC(C2)(C)C | C12H16O2S
